US09212196B2
Ethyl 2-(2 fluoro-4-(hydroxymethyl)-6-methoxyphenoxy)acetate
The compound was prepared according to general procedure F with Ethyl 2-(2-fluoro-4-formyl-6-methoxyphenoxy)acetate (1.4 mmol) in THF (20 ml) and water (20 ml) and NaBH4 (1.4 mmol). 220 mg of compound were obtained. This compound was used without further purification. 1H NMR (250 MHz, CDCl3): δ 1.33 (t, J=7.1 Hz, 3H), 3.90 (s, 3H), 4.28 (q, J=7.1 Hz, 2H), 4.65 (s, 2H), 4.71 (s, 2H) 6.95 (s, 1H), 6.76 (m, 2H). MS (ESI): m/z 538.8 [2M+Na]+

reactant | Ethyl 2-(2-fluoro-4-formyl-6-methoxyphenoxy)acetate | 1.4 mmol | FC1=C(OCC(=O)OCC)C(=CC(=C1)C=O)OC | C12H13FO5
reactant | NaBH4 | 1.4 mmol | [BH4-].[Na+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | 20 ml | O | H2O
product | Ethyl 2-(2 fluoro-4-(hydroxymethyl)-6-methoxyphenoxy)acetate | 220 mg | FC1=C(OCC(=O)OCC)C(=CC(=C1)CO)OC | C12H15FO5
